US09216968B2
Methyl 6-nitro-1H-benzimidazole-4-carboxylate
Methyl 1H-benzimidazole-4-carboxylate (315 mg) was dissolved in conc. sulfuric acid (3 mL), and the solution was stirred on ice bath. A small amount of potassium nitrate (199 mg) was added portion-wise, and the solution was stirred at room temperature for 4 hours. The reaction mixture was poured into ice, alkalified with 3N aqueous sodium hydroxide solution under stirring on ice bath, and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and brine, and dried over anhydrous magnesium sulfate. The titled compound (334 mg) was obtained as colorless powder after distilling off the solvent under reduced pressure.

reactant | Methyl 1H-benzimidazole-4-carboxylate | 315 mg | N1C=NC2=C1C=CC=C2C(=O)OC | C9H8N2O2
reactant | potassium nitrate | 199 mg | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
product | Methyl 6-nitro-1H-benzimidazole-4-carboxylate | 334 mg | [N+](=O)([O-])C=1C=C(C2=C(NC=N2)C1)C(=O)OC | C9H7N3O4
